US08871767B2
2-(4-methyl-3-nitro-phenyl)-6-[2-(trifluoromethyl)-3-pyridyl]imidazo[2,1-f]pyridazine
A 500 mL flask is charged with 6-chloro-2-(4-methyl-3-nitro-phenyl)imidazo[2,1-f]pyridazine (10.104 g, 0.035 mol), 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-(trifluoromethyl)pyridine (Journal of Organic Chemistry, 2011, 76, 1062) (13.38 g, 0.049 mol), KOAc (6.869 g, 0.07 mol), bis(dibenzylideneacetone)palladium(0) (2.01 g, 3.5 mmol), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (3.34 g, 0.007 mol), butanol (112 mL) and water (20 mL). The reaction mixture is heated at 90° C. for 4 hr. The reaction is filtered through celite and washed with EtOAc. The liquid layers are combined, concentrated onto celite and purified by silica gel chromatography (0-75% EtOAc in CH2Cl2) to give the title compound (7.98 g, 60% yield). LCMS (m/z)=400.4 [M+H]+, tR=2.76 min.

reactant | 6-chloro-2-(4-methyl-3-nitro-phenyl)imidazo[2,1-f]pyridazine | 0.035 mol, 10.104 g | ClC1=NN2C(C=C1)=NC(=C2)C2=CC(=C(C=C2)C)[N+](=O)[O-] | C13H9ClN4O2
reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-(trifluoromethyl)pyridine | 0.049 mol, 13.38 g | CC1(OB(OC1(C)C)C=1C(=NC=CC1)C(F)(F)F)C | C12H15BF3NO2
reactant | KOAc | 0.07 mol, 6.869 g | CC(=O)[O-].[K+]
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.007 mol, 3.34 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
catalyst | bis(dibenzylideneacetone)palladium(0) | 3.5 mmol, 2.01 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | water | 20 mL | O | H2O
solvent | butanol | 112 mL | C(CCC)O | C4H10O
product | 2-(4-methyl-3-nitro-phenyl)-6-[2-(trifluoromethyl)-3-pyridyl]imidazo[2,1-f]pyridazine | 7.98 g, 60% yield | CC1=C(C=C(C=C1)C=1N=C2C=CC(=NN2C1)C=1C(=NC=CC1)C(F)(F)F)[N+](=O)[O-] | C19H12F3N5O2
